US08350044B2
Preparation of N-(4-chloro-2-pyridin-3-yl-thiazol-5-yl)-2,N-dimethyl-3-methylsulfanyl-propionamide (Compound 227)
To a solution of (4-chloro-2-pyridin-3-yl-thiazol-5-yl)-methylamine (200 mg, 0.88 mmol) in dichloroethane (2 mL) was added pyridine (83 mg, 1.05 mmol), N,N-dimethylaminopyridine (54 mg, 0.44 mmol) followed by 2-methyl-3-methylsulfanyl-propionyl chloride (160 mg, 1.05 mmol). The reaction mixture was stirred at ambient temperature for 16 hours. The reaction was diluted with water and the mixture was extracted with dichloromethane. The organic layer was dried over Na2SO4, filtered and concentrated. The crude product was purified by silica gel chromatography (0 to 100% ethyl acetate/hexanes) to afford a light yellow solid (250 mg, 84%): mp 70-73° C.; 1H NMR (300 MHz, CDCl3) δ 9.14 (s, 1H), 8.75 (d, J=3.8 Hz, 1H), 8.28-8.15 (m, 1H), 7.45 (dd, J=8.0, 4.9 Hz, 1H), 3.32 (s, 3H), 2.99-2.72 (m, 2H), 2.50 (d, J=7.5 Hz, 1H), 2.06 (d, J=2.5 Hz, 3H), 1.31-1.14 (m, 3H); ESIMS m/z 342 (M+1).

reactant | (4-chloro-2-pyridin-3-yl-thiazol-5-yl)-methylamine | 0.88 mmol, 200 mg | ClC=1N=C(SC1NC)C=1C=NC=CC1 | C9H8ClN3S
reactant | pyridine | 1.05 mmol, 83 mg | N1=CC=CC=C1 | C5H5N
reactant | 2-methyl-3-methylsulfanyl-propionyl chloride | 1.05 mmol, 160 mg | CC(C(=O)Cl)CSC | C5H9ClOS
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
product | N-(4-chloro-2-pyridin-3-yl-thiazol-5-yl)-2,N-dimethyl-3-methylsulfanyl-propionamide | 250 mg, 84% | ClC=1N=C(SC1N(C(C(CSC)C)=O)C)C=1C=NC=CC1 | C14H16ClN3OS2
